US08957080B2
To a stirred mixture of 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine (5.9 g, 22.6 mmol, 1.00 equiv), (S)-tert-butyl 3-hydroxypiperidine-1-carboxylate (10 g, 50 mmol, 2.2 equiv) and triphenylphosphine (11.8 g, 45 mmol, 2.0 equiv) in tetrahydrofuran (300 mL) at 10° C. was added a solution of diisopropyl azodicarboxylate in tetrahydrofuran (30 mL) dropwise in 30 min. The resulting mixture was stirred at room temperature for 12 h and then concentrated under vacuum. The residue was purified on a silica gel column eluted with dichloromethane/methanol (100/1) to give 3 g (33%) of (R)-tert-butyl 3-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)piperidine-1-carboxylate as a yellow solid.

reactant | 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 22.6 mmol, 5.9 g, 1.00 equiv | IC1=NNC2=NC=NC(=C21)N | C5H4IN5
reactant | (S)-tert-butyl 3-hydroxypiperidine-1-carboxylate | 50 mmol, 10 g, 2.2 equiv | O[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | triphenylphosphine | 45 mmol, 11.8 g, 2.0 equiv | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | (R)-tert-butyl 3-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)piperidine-1-carboxylate | 3 g, 33% | NC1=C2C(=NC=N1)N(N=C2I)[C@H]2CN(CCC2)C(=O)OC(C)(C)C | C15H21IN6O2
